### PR TITLE
Add and prove lemmas about `bayesBinaryRisk`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add lemmas about the composition and compProd of a mesaure and a kernel, in particular: `Measure.comp_const`, `Measure.compProd_apply_univ`, `Measure.comp_apply_univ`, `Measure.compProd_smul_left`, `Measure.comp_smul_left`
- Remove a duplicate lemma `compProd_const` (there is already `Measure.compProd_const` in the same file)
- Add `mem_set_bool` and the ext lemma `MeasureTheory.Measure.measure_bool_ext`
- Add `boolMeasure` and some API lemmas (for now I am keeping it, it is used only in `bayesBinaryRisk_eq_bayesBinaryRisk_one_one`, but it may be useful in the future)
- Add `nonempty_subtype_isMarkovKernel_of_nonempty` (this is an auxiliary lemma I use it in the proof of `bayesBinaryRisk_self`, but it may be useful other times to handle the iInf in the definition of `bayesBinaryRisk`)
- Add lemmas about the `bayesBinaryRisk`: `bayesBinaryRisk_smul_smul`, `bayesBinaryRisk_eq_bayesBinaryRisk_one_one`, `bayesBinaryRisk_le_min`, `bayesBinaryRisk_symm`
- Finish proof of `bayesBinaryRisk_self`
- Simplify proof of `bayesBinaryRisk_dirac`
- Update blueprint, also change the order of `thm:data_proc_bayesBinaryRisk`, `lem:bayesBinaryRisk_self` and `lem:bayesBinaryRisk_le` and chenge the proof of `lem:bayesBinaryRisk_le` to better reflect the structure of the lean proofs

### CODE REVIEW

File: TestingLowerBounds/Testing/Binary.lean [hunk 1]
```diff
@@ -250,38 +250,154 @@ lemma bayesBinaryRisk_eq (μ ν : Measure 𝒳) (π : Measure Bool) :
   rw [bayesianRisk, lintegral_fintype, mul_comm (π {false}), mul_comm (π {true})]
   simp
 
+variable {π : Measure Bool}
+
+--rename this and put it in a better place
+lemma mem_set_bool (s : Set Bool) : s = ∅ ∨ s = {true} ∨ s = {false} ∨ s = {true, false} := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]: The `mem` part of the name is strange, since this is not about membership. `cases_set_bool` perhaps?
```suggestion
lemma cases_set_bool (s : Set Bool) : s = ∅ ∨ s = {true} ∨ s = {false} ∨ s = {true, false} := by
```

File: TestingLowerBounds/Testing/Binary.lean [hunk 2]
```diff
@@ -250,38 +250,154 @@ lemma bayesBinaryRisk_eq (μ ν : Measure 𝒳) (π : Measure Bool) :
...
-    simp only [Measure.smul_apply, smul_eq_mul, mul_assoc]
-  simp_rw [this]
-  sorry
+      = min (π {false} * a) (π {true} * b) := by
+  rw [bayesBinaryRisk_smul_smul, bayesBinaryRisk_self]
+  simp [lintegral_dirac]
+
+lemma bayesBinaryRisk_le_min (μ ν : Measure 𝒳) (π : Measure Bool) :
+    bayesBinaryRisk μ ν π ≤ min (π {false} * μ Set.univ) (π {true} * ν Set.univ) := by
+  let η : kernel 𝒳 Unit := kernel.const 𝒳 (Measure.dirac ())
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]: Can you use the `discard` kernel defined in Kernel/Monoidal.lean (in our project)? And add any missing API for it.

File: TestingLowerBounds/Testing/Binary.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/Testing/Binary.lean]: Right, thanks! I also changed the namespace, because the lemma is not really related to probability, or even measure theory, it is just a property of Bool.

File: TestingLowerBounds/Testing/Binary.lean [hunk 3]
```diff
@@ -250,38 +250,155 @@ lemma bayesBinaryRisk_eq (μ ν : Measure 𝒳) (π : Measure Bool) :
...
-  sorry
+      = min (π {false} * a) (π {true} * b) := by
+  rw [bayesBinaryRisk_smul_smul, bayesBinaryRisk_self]
+  simp [lintegral_dirac]
+
+lemma bayesBinaryRisk_le_min (μ ν : Measure 𝒳) (π : Measure Bool) :
+    bayesBinaryRisk μ ν π ≤ min (π {false} * μ Set.univ) (π {true} * ν Set.univ) := by
+  let η : kernel 𝒳 Unit := kernel.discard 𝒳
+  convert bayesBinaryRisk_le_bayesBinaryRisk_comp μ ν π η
+  simp_rw [η, Measure.comp_discard, bayesBinaryRisk_dirac]
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]:
```suggestion
  convert bayesBinaryRisk_le_bayesBinaryRisk_comp μ ν π (kernel.discard 𝒳)
  simp_rw [Measure.comp_discard, bayesBinaryRisk_dirac]
```

**Review by RemyDegenne — APPROVED** [review]
